### PR TITLE
[Merged by Bors] - feat: Fubini theorem for vector measures

### PR DESCRIPTION
**Pull request by sgouezel**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by SnirBroshi** [comment]
Hello! Could you tag the versions of Fubini's theorem with `@[wikidata Q1149022]`?
(https://www.wikidata.org/wiki/Q1149022)
This would list all of them under [this page in the docs](https://leanprover-community.github.io/crossref-exports/?db=wikidata&id=Q1149022).

**Comment by sgouezel** [comment]
I think wikidata are not mainstream enough in Mathlib to ask for them in general PRs. Better add them later on in specific PRs (especially on this Fubini topic, as there are already several Fubini versions in Mathlib, and the tag should probably be added to all of them).

**Comment by SnirBroshi** [comment]
Umm okay, but this feels like a chicken and egg problem: they won't be maintstream until people add them in PRs such as this one. I don't mind adding them in a followup I guess.

File: Mathlib/MeasureTheory/VectorMeasure/Prod.lean [hunk 1]
```diff
@@ -194,4 +198,259 @@ instance [CompleteSpace G] [IsFiniteMeasure μ.variation] [IsFiniteMeasure ν.va
     infer_instance
   exact isFiniteMeasure_of_le _ variation_prod_le
 
+omit [NormedSpace ℝ H] in
+lemma _root_.MeasureTheory.Integrable.prod_vectorMeasure
+    [CompleteSpace G] [IsFiniteMeasure μ.variation] [IsFiniteMeasure ν.variation]
+    {f : X × Y → H} (hf : Integrable f (μ.variation.prod ν.variation)) :
+    (μ.prod ν B).Integrable f :=
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Prod.lean:214]: Can you fix the docstring of `VectorMeasure.Integrable` please? It still mentions `VectorMeasure.transpose`.

File: Mathlib/MeasureTheory/VectorMeasure/Prod.lean [hunk 2]
```diff
@@ -194,4 +198,259 @@ instance [CompleteSpace G] [IsFiniteMeasure μ.variation] [IsFiniteMeasure ν.va
...
+    ∫ᵛ z, f z.swap ∂[B; ν.prod μ A.flip] = ∫ᵛ z, f z ∂[B; μ.prod ν A] := by
+  have I (z : Y × X) : z.swap = MeasurableEquiv.prodComm z := rfl
+  simp_rw [I, ← integral_map_equiv]
+  congr
+  by_cases h : HasProd μ ν A; swap
+  · simp [prod_eq_zero_of_not_hasProd, h, hasProd_flip_iff]
+  have : HasProd ν μ A.flip := h.flip
+  apply (prod_eq_of_forall_apply_prod (fun s t hs ht ↦ ?_)).symm
+  rw [map_apply _ MeasurableEquiv.prodComm.measurable (hs.prod ht)]
+  simp [MeasurableEquiv.prodComm]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Prod.lean]: I'd say this deserves a separate lemma describing what happens if you map the product by `prodComm`.

File: Mathlib/MeasureTheory/VectorMeasure/Prod.lean [hunk 3]
```diff
@@ -194,4 +198,259 @@ instance [CompleteSpace G] [IsFiniteMeasure μ.variation] [IsFiniteMeasure ν.va
...
+
+/-- **Fubini's Theorem**: For integrable functions on `X × Y`,
+the vector measure integral of `f` for the product vector measure is equal to the iterated vector
+measure integral. Version where `f` is scalar. -/
+theorem integral_prod_smul [CompleteSpace F] {B : E →L[ℝ] F →L[ℝ] H}
+    [IsFiniteMeasure ν.variation] [IsFiniteMeasure μ.variation]
+    {f : X × Y → ℝ} (hf : Integrable f (μ.variation.prod ν.variation)) :
+    ∫ᵛ z, f z ∂•(μ.prod ν B) = ∫ᵛ x, (∫ᵛ y, f (x, y) ∂•ν) ∂[B.flip; μ] := by
+  by_cases h : CompleteSpace H
+  · exact integral_prod hf (fun x y z ↦ by simp)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Prod.lean]:
```suggestion
  · exact integral_prod hf (by simp)
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

File: Mathlib/MeasureTheory/VectorMeasure/Prod.lean [hunk 4]
```diff
@@ -163,6 +167,16 @@ lemma prod_eq_of_forall_apply_prod {ρ : VectorMeasure (X × Y) G} (hρ : ∀ (s
...
 
+@[simp] lemma map_prod_swap :
+    (μ.prod ν B).map Prod.swap = ν.prod μ B.flip := by
+  by_cases h : HasProd μ ν B; swap
+  · simp [prod_eq_zero_of_not_hasProd, h, hasProd_flip_iff]
+  have : HasProd ν μ B.flip := h.flip
+  apply (prod_eq_of_forall_apply_prod (fun s t hs ht ↦ ?_)).symm
+  have : Prod.swap (α := X) (β := Y) = MeasurableEquiv.prodComm := rfl
+  rw [this, map_apply _ MeasurableEquiv.prodComm.measurable (hs.prod ht)]
+  simp [MeasurableEquiv.prodComm]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/VectorMeasure/Prod.lean]:
```suggestion
  rw [map_apply _ measurable_swap (hs.prod ht)]
  simp
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate

**Comment by ocfnash** [comment]
Thanks!

bors merge
